US05270310
N,N-Dimethyl-N'hexadecanoyl-1,3-propanediamine (6)
To a solution of N,N-dimethyl-1,3-propanediamine (1.00 mL, 7.95 mmole) in methylene chloride (20 mL) was added palmitoyl chloride (2.19 g, 7.97 mmole). The reaction mixture was stirred at room temperature over night. The solvent was removed under reduced pressure and the residue titurated with diethyl ether. The precipitate (2.34 g) was filtered and stirred in saturated aqueous sodium bicarbonate over night. The precipitate was filtered to give the title compound (2.00 g, 74%) as a white solid. Analysis calculated for C21H43H2O 1.25H2O: C: 69.46; H: 12.91; N: 7.72. Found: C: 69.30 C: 9.46; H: 12.91; N: 7.72 Found: C: 69.30, H: 12.13; H: 12.13; N: 7.58.

reactant | N,N-dimethyl-1,3-propanediamine | 7.95 mmole, 1.00 mL | CN(CCCN)C | C5H14N2
reactant | palmitoyl chloride | 7.97 mmole, 2.19 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-N'hexadecanoyl-1,3-propanediamine | 2.00 g, 74% | CN(CCCNC(CCCCCCCCCCCCCCC)=O)C | C21H44N2O
